US08859773B2
Step 2: 6-(ethoxycarbonyl)quinoline 1-oxide
To ethyl quinoline-6-carboxylate (3.2 g, 16 mmol) in dichloromethane (120 mL) was added meta-chloroperoxybenzoic acid (4.9 g, 0.024 mol) portionwise. The reaction was stirred at room temperature for 4 hours. The reaction was diluted with dichloromethane and washed with saturated aqueous sodium carbonate (3×30 mL) and brine (2×40 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave the title compound (2.45 g, 71%) as a brown solid. 1H NMR (400 MHz, CDCl3, δ): 8.81-8.79 (d, 1H), 8.62 (s, 2H), 8.35-8.33 (d, 1H), 7.87-7.85 (d, 1H), 7.39 (s, 1H), 4.49-4.44 (q, 2H), 1.47-1.43 (t, 3H).

reactant | ethyl quinoline-6-carboxylate | 16 mmol, 3.2 g | N1=CC=CC2=CC(=CC=C12)C(=O)OCC | C12H11NO2
reactant | meta-chloroperoxybenzoic acid | 0.024 mol, 4.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 6-(ethoxycarbonyl)quinoline 1-oxide | 2.45 g, 71% | C(C)OC(=O)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C12H11NO3
